Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiography 
Percutaneous Coronary Intervention

 
History of Present Illness:
___ M w/ family history heart disease (father w/ CABG x4 in ___ 
who presents with around 8 weeks of progressive chest tightness 
over left breast. Mostly would occur when cycling to work, and 
occasionally radiating to left arm. Pain does not occur at rest. 
Pain dissipates approximately ___ minutes after stopping 
exercising. The discomfort is associated with SOB and 
breathlessness. No syncope or associated diaphoresis.  

 In the ED, initial vitals were: 97.8 76 161/104 20 98% RA  
 - Labs notable for troponin 0.02. CBC and chem panel 
unremarkable. BNP 183  
 - Imaging notable for CXR with no lung volumes, no infection or 
pulmonary edema. EKG with new Q waves and biphasic T waves 
anteriorly  
 - Atrius cardiology was consulted and recommended: heparin drip 
and admission to cardiology  
 - Patient was started on a heparin drip with bolus, also given 
atorvastatin 80mg. Received ASA 325mg in the ambulance.  
 
Decision was made to admit for unstable angina/NSTEMI.  
Vitals prior to transfer: 98.1 76 127/76 16 94% RA  

On the floor, the patient tells me that he is chest pain free. 
He has no complaints.  
 
 ROS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain.  
 Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies nausea, vomiting, 
diarrhea, constipation or abdominal pain. No recent change in 
bowel or bladder habits. No dysuria.  
 
 
Past Medical History:
- Stickler syndrome c/b torn retina in R eye (s/p surgery at age 
___: no vision in R eye, relatively preserved vision in L eye.  
- Hyperlipidemia  
- Osteopenia  
- Sensorineural hearing loss  
 
 
Social History:
___
Family History:
Father with CABG X 4 in his ___. No other family history of 
heart disease. Grandfather committed suicide. No history of 
sudden cardiac death. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
===========================  
Vital Signs: T 98.2, 151/94, 74, 18, 94%RA  
General: Alert, oriented, no acute distress  
HEENT: R eye s/p surgical changes, L eye with reactive pupil and 
preserved EOM. Oropharynx wnl.  
NECK: No JVP elevation.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended.  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Access: PIV  

ADMISSION PHYSICAL EXAM: 
========================
Vital Signs: T 98.2, 151/94, 74, 18, 94%RA
General: Alert, oriented, no acute distress
HEENT: R eye s/p surgical changes, L eye with reactive pupil and 
preserved EOM. Oropharynx wnl.
NECK: No JVP elevation.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended.
Ext: Warm, well perfused, no clubbing, cyanosis or edema. Right 
radial ecchymosis w/ intact distal pulses and sensation.
 
Pertinent Results:
___ 08:23PM   ___ PTT-31.7 ___
___ 08:23PM   ___ PTT-31.7 ___
___ 06:40PM   GLUCOSE-80 UREA N-14 CREAT-1.0 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-100 TOTAL CO2-22 ANION GAP-19
___ 06:40PM   estGFR-Using this
___ 06:40PM   cTropnT-0.02*
___ 06:40PM   proBNP-183*
___ 06:40PM   WBC-7.3 RBC-4.69 HGB-14.7 HCT-43.1 MCV-92 
MCH-31.3 MCHC-34.1 RDW-11.6 RDWSD-38.7
___ 06:40PM   NEUTS-52.7 ___ MONOS-8.0 EOS-4.3 
BASOS-1.0 IM ___ AbsNeut-3.85 AbsLymp-2.44 AbsMono-0.58 
AbsEos-0.31 AbsBaso-0.07
___ 06:40PM   PLT COUNT-278

INTERVAL/DC LABS:
=================
___ 06:45AM BLOOD WBC-6.6 RBC-4.46* Hgb-13.8 Hct-41.5 
MCV-93 MCH-30.9 MCHC-33.3 RDW-11.6 RDWSD-39.7 Plt ___
___ 06:45AM BLOOD Glucose-83 UreaN-13 Creat-1.0 Na-140 
K-4.1 Cl-105 HCO3-20* AnGap-19
___ 09:43PM BLOOD cTropnT-0.01
___ 06:45AM BLOOD Calcium-8.2* Phos-3.0 Mg-2.3

IMAGING: 
=======
# CXR ___
No cardiopulmonary process.

# CATH ___
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD has a discrete 99% mid stenosis, with a separate 50% 
stenosis more distally in the mid segment. There is TIMI 2 
distal flow.
* Circumflex
The Circumflex has minimal luminal irregularities.
* Right Coronary Artery
The RCA is a small, non-dominant vessel and is normal.

Impressions:
1 vessel CAD.
Successful PTCA/stent of mid LAD using drug-eluting stent.
 
Brief Hospital Course:
___ gentleman with a family history of coronary disease 
(father had CABG), who presented to ___ 
___ with 8 weeks of progressive exertional chest 
tightness. 

# NSTEMI
Patient pressented with subacute yypical anginal sx. EKG showed 
new Q waves and biphasic T waves anteriology. Initial trp .02. 
He was given ASA, atorva, metop, hep ggt. Patient underwent 
catheterization on ___, which showed the following: He 
had a right dominant system with a normal left main coronary, 
his LAD had a discrete 99% mid stenosis with a separate 50% 
stenosis more distally in the mid segment. The circumflex had 
minimal irregularities and the right coronary was a small vessel 
and there was an additional branch of the right coronary and all 
of that was patent. He underwent a successful stenting procedure 
to the 99% LAD lesion with a 3.0 mm x 12 mm Promus PREMIER 
drug-eluting stent. He was continued on medical management with 
Plavix 75 mg a day, atorvastatin 80 mg a day, metoprolol 
tartrate 12.5 mg twice a day, aspirin 81 mg a day. Of note, 
patient did have ecchymosis/hematoma at right radial access 
site. Distal sensation and pulse intact.

# Hypertension
He also had elevated blood pressure throughout his 
hospitalization (SBP 150-170) and was started on lisinopril 5 mg 
daily. 

TRANSITIONAL ISSUES: 
====================
[] Patient will need echo as an outpatient
[] Optimization of blood pressure medication
[] Physical therapy recommends referral to cardiac rehab as an 
outpatient
[] f/u with cardiology as outpatient 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO 1X/WEEK (MO) 
2. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Alendronate Sodium 70 mg PO 1X/WEEK (MO)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Non ST elevation myocardial infarction
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital because you had chest pain 
concerning for a blockage in the blood vessels of your heart.

What was done while I was in the hospital?
==========================================
- You were given heart medicines and blood pressure medicines
- You had a heart "catheterization" which showed blockage of one 
of your arteries of your heart. A stent was placed to open the 
artery. 
- You were monitored overnight and did well after the procedure.
- You also had elevated blood pressures and you were started on 
blood pressure medications.

What should I do now that I am going home?
==========================================
- Take all of your medications as prescribed 
- It is very important that you do not miss ___ dose of aspirin or 
Plavix because missing these medicines can cause the stent to 
become blocked.
- Please follow-up with your PCP, ___ on ___ at 
9:30P. 
- Please follow up with Dr. ___, cardiology, at ___ 
Medical associates. If you have not been contacted for an 
appointment within 3 days, please call ___ to 
schedule an appointment.

Thank you for allowing us to participate in your care!

-Your ___ Team
 
Followup Instructions:
___